US04489003
A mixture of 22 g (94.8 mmol) of 5,6-dichloroisatoic acid anhydride, 10.85 g (94.8 mmol) of L-proline and 100 ml of dimethyl sulphoxide is heated to 90° for 0.5 hour, subsequently evaporated to dryness in a high vacuum and the residue is heated to 150° for 1 hour. By chromatography on silica gel while eluting with ethyl acetate and subsequent crystallization from ethyl acetate and hexane there is obtained (S)-6,7-dichloro-1,2,3,11a-tetrahydro-5H-pyrrolo[2,1-c][1,4]benzodiazepine-5,11(10H)-dione of melting point 203°-205° C.

reactant | 5,6-dichloroisatoic acid anhydride | 94.8 mmol, 22 g | ClC1=CC=C2C(C(=O)OC(N2)=O)=C1Cl | C8H3Cl2NO3
reactant | L-proline | 94.8 mmol, 10.85 g | N1[C@H](C(=O)O)CCC1 | C5H9NO2
solvent | dimethyl sulphoxide | 100 ml | CS(=O)C | C2H6OS
product | (S)-6,7-dichloro-1,2,3,11a-tetrahydro-5H-pyrrolo[2,1-c][1,4]benzodiazepine-5,11(10H)-dione | ClC1=C(C=CC2=C1C(N1[C@H](C(N2)=O)CCC1)=O)Cl | C12H10Cl2N2O2
